US08017792B2
Synthesis of 2-(3-bromo-4-methoxybenzyl)-1-benzothiophene
Preparation was performed in a similar manner as in Preparation Example 4 using 3-bromo-4-methoxybenzaldehyde and benzo[b]thiophene.

reactant | 3-bromo-4-methoxybenzaldehyde | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | benzo[b]thiophene | S1C2=C(C=C1)C=CC=C2 | C8H6S
product | 2-(3-bromo-4-methoxybenzyl)-1-benzothiophene | BrC=1C=C(CC=2SC3=C(C2)C=CC=C3)C=CC1OC | C16H13BrOS
